US08729082B2
Step C: Preparation of 3-chloro-6,7-dimethyl-quinoxalin-2-ylamine
A mixture of 2,3-dichloro-6,7-dimethyl-quinoxaline (30 g) in 300 mL of THF was cooled with dry-ice in a sealed vessel. Ammonia gas was added for 10 min, then the mixture was heated to 100° C. for 20 h. After removal of the solvent in vaccuo the residue was purified by flash chromatography to yield 14 g of the title compound. 1H-NMR (300 MHz, d6-DMSO): δ=7.43 (1H, s), 7.37 (1H, s), 7.00 (2H, s), 2.28 (6H, s) ppm.

reactant | 2,3-dichloro-6,7-dimethyl-quinoxaline | 30 g | ClC1=NC2=CC(=C(C=C2N=C1Cl)C)C | C10H8Cl2N2
reactant | dry-ice | C(=O)=O | CO2
reactant | Ammonia | N | H3N
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 3-chloro-6,7-dimethyl-quinoxalin-2-ylamine | 14 g | ClC=1C(=NC2=CC(=C(C=C2N1)C)C)N | C10H10ClN3
